** sch_path: /home/jrsharp/old_home_mnt/asic/high_speed_comparator/xschem/post_amplifier.sch
.subckt post_amplifier VLAT_PLUS VLAT_MINUS VDD VSS VOUT
*.PININFO VLAT_PLUS:I VLAT_MINUS:I VDD:I VSS:I VOUT:O
XM1 net1 VLAT_PLUS net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM2 net3 VLAT_MINUS net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM3 net4 net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM4 net1 VLAT_PLUS net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
XM5 net3 VLAT_MINUS net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
XM7 VOUT net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM8 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
.ends
.end
